US05308854
Step C: Preparation of 3-nitro-5-butyl-6-methylpyridin-2(1H)-one
A solution of 5-butyl-6-methylpyridin-2(1H)-one (562 mg, 3.40 mmol) in concentrated sulfuric acid (4.3 mL) was cooled in an ice bath and 70% nitric acid (0.4 mL) was added dropwise. After one hour, the reaction mixture was poured into ice/water and the yellow product extracted into methylene chloride. This solution was dried, filtered and evaporated. The residue (468 mg) was chromatographed on silica gel eluting with 1-2% methanol/chloroform to yield 293 mg (41%) of pure product.

reactant | 5-butyl-6-methylpyridin-2(1H)-one | 3.40 mmol, 562 mg | C(CCC)C=1C=CC(NC1C)=O | C10H15NO
reactant | nitric acid | 0.4 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 4.3 mL | S(O)(O)(=O)=O | H2O4S
product | 3-nitro-5-butyl-6-methylpyridin-2(1H)-one | 293 mg, 41% | [N+](=O)([O-])C=1C(NC(=C(C1)CCCC)C)=O | C10H14N2O3
